US09403798B2
4-[4-(4-Fluorophenyl)-5,6-dihydropyridin-1(2H)-yl]-1,3,5-triazin-2(1H)-one
To an acetic acid (9.0 mL)-water (1.8 mL) solution of 2-chloro-4-[4-(4-fluorophenyl)-5,6-dihydropyridin-1(2H)-yl]-1,3,5-triazine (900 mg, 3.10 mmol) synthesized in Reference Synthesis Example 341, sodium acetate (900 mg, 11.0 mmol) was added and the resultant mixture was stirred at 90° C. for 1 hour. After completion of the reaction, the reaction solution was concentrated under reduced pressure and water was added to the obtained residue, followed by stirring the resultant mixture at 0° C. The precipitated solid was collected by filtration and the solid was dried under reduced pressure to obtain the title compound (750 mg, yield 89%).

reactant | acetic acid | 9.0 mL | C(C)(=O)O | C2H4O2
reactant | 2-chloro-4-[4-(4-fluorophenyl)-5,6-dihydropyridin-1(2H)-yl]-1,3,5-triazine | 3.10 mmol, 900 mg | ClC1=NC=NC(=N1)N1CC=C(CC1)C1=CC=C(C=C1)F | C14H12ClFN4
reactant | sodium acetate | 11.0 mmol, 900 mg | C(C)(=O)[O-].[Na+]
solvent | water | 1.8 mL | O | H2O
product | 4-[4-(4-Fluorophenyl)-5,6-dihydropyridin-1(2H)-yl]-1,3,5-triazin-2(1H)-one | 750 mg, yield 89% | FC1=CC=C(C=C1)C1=CCN(CC1)C1=NC(NC=N1)=O | C14H13FN4O
